US08314120B2
3-Bromo-4-phenylpyridine (125 mg, 0.534 mmol) was added to a suspension of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (33 mg, 0.053 mmol) and tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3) (49 mg, 0.053 mmol) in toluene (5 mL). 5-Amino-2-butylisoindolin-1-one (120 mg, 0.587 mmol) and sodium tert-butoxide (128 mg, 1.335 mmol) were added and the mixture was stirred and heated in the microwave (120° C., 300 W, 75 min). Water and ethyl acetate were added, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and dried over MgSO4. Purification by flash chromatography (dichloromethane/methanol, gradient 1-5% methanol) provided 2-butyl-5-(4-phenylpyridin-3-ylamino)isoindolin-1-one (56 mg, 46%). ESI-MS [M+H]+=358.2.

reactant | 3-Bromo-4-phenylpyridine | 0.534 mmol, 125 mg | BrC=1C=NC=CC1C1=CC=CC=C1 | C11H8BrN
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.053 mmol, 33 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 5-Amino-2-butylisoindolin-1-one | 0.587 mmol, 120 mg | NC=1C=C2CN(C(C2=CC1)=O)CCCC | C12H16N2O
reactant | sodium tert-butoxide | 1.335 mmol, 128 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.053 mmol, 49 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-butyl-5-(4-phenylpyridin-3-ylamino)isoindolin-1-one | 56 mg, 46% | C(CCC)N1C(C2=CC=C(C=C2C1)NC=1C=NC=CC1C1=CC=CC=C1)=O | C23H23N3O
